US05321135
Synthesis of 5,6,7,8-tetrahydro-1,2,3-trimethoxy-10,11-methylenedioxydibenzo[a,c]cyclooctene
In 1 ml of dichloromethane, 73 mg (0.21 mmol) of 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane were dissolved. The solution was added with 0.1 ml of trifluoroacetic acid and 190 mg (0.41 mmol) of ferric perchlorate, followed by stirring at room temperature for 20 minutes. The reaction mixture was dissolved in 20 ml of ethyl acetate. After the resulting solution was washed with 2N-HCl and then with saturated NaCl, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, whereby brown oil was obtained. The oil thus obtained was purified by TLC (silica gel: "MERCK #5744", eluent: 1:5 mixed solvent of ethyl acetate and hexane), whereby 9 mg of the title compound were obtained as colorless oil (yield: 12%). In addition, the starting material were recovered as colorless oil (13 mg, recovery: 18%).

reactant | 1-(3,4-methylenedioxyphenyl)-4-(3,4,5-trimethoxyphenyl)butane | 0.21 mmol, 73 mg | C1OC=2C=C(C=CC2O1)CCCCC1=CC(=C(C(=C1)OC)OC)OC | C20H24O5
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5,6,7,8-tetrahydro-1,2,3-trimethoxy-10,11-methylenedioxydibenzo[a,c]cyclooctene | 9 mg | COC1=C(C(=CC2=C1C1=C(CCCC2)C=C2C(=C1)OCO2)OC)OC | C20H22O5
